US07435837B2
(±)-[(5-chloro-7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.037 g, 29%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[5-chloro-7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.39 g, 0.88 mmol) and methylamine (0.271 g, 8.8 mmol). mp 100-102° C.

reactant | (±)-[5-chloro-7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.88 mmol, 0.39 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)OC)Cl | C23H21ClO5S
reactant | methylamine | 8.8 mmol, 0.271 g | CN | CH5N
product | (±)-[(5-chloro-7-(2-methoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | ClC=1C=C(C2=C(CC(O2)CNC)C1)C1=C(C=CC=C1)OC | C17H18ClNO2
